US07674791B2
(a) (6-Chloro-2-fluoro-3-methyl-benzyl)-ethynyl-methyl-amine
To a solution of ethynyl-methylamine (98 uL, 1.16 mmol) and 6-chloro-2-fluoro-3-methyl-benzaldehyde (200 mg, 1.16 mmol) in CH2Cl2 (3 mL) was added sodium triacetoxyborohydride (369 mg, 1.74 mmol) and acetic acid (7 uL, 0.12 mmol). The reaction mixture was stirred at room temperature for 2 hours, quenched with saturated aqueous NaHCO3, and extracted with ethyl acetate. The combined organic phases were washed with brine, dried over anhydrous magnesium sulfate, and concentrated to afford the title compound as yellow oil.

reactant | ethynyl-methylamine | 1.16 mmol, 98 uL | C(#C)NC | C3H5N
reactant | 6-chloro-2-fluoro-3-methyl-benzaldehyde | 1.16 mmol, 200 mg | ClC1=CC=C(C(=C1C=O)F)C | C8H6ClFO
reactant | sodium triacetoxyborohydride | 1.74 mmol, 369 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.12 mmol, 7 uL | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | (6-Chloro-2-fluoro-3-methyl-benzyl)-ethynyl-methyl-amine | ClC1=CC=C(C(=C1CN(C)C#C)F)C | C11H11ClFN
